Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ male with hx of pneumonia, copd, CHF, pacer, afib, CKD 
here with cough. 
Pt is deaf and signs, son at bedside interpreting. 
Pt developed a cold about a week ago with intermittent coughing. 
 However, yesterday he had poor appetite and increase in cough.  
He developed thick yellow sputum that was quite profuse with 
coughing and nasal drainage.  Pt also began to have shortness of 
breath, severe with walking, present also at rest.  pt denies 
CP, palp.  pt became quite weak and could not get up unassisted 
and therefore family called EMS. 
Pt reports that he is feeling much better with the oxygen on and 
is already coughing less.  denies n/v/d, denies changes to 
chronic ___ edema.  
In regards to COPD hx, breathing greatly improved with use of 
spiriva over the past year.  has been given steroids with 
pneumonia in the past, never exascerbated without infection.  
ROS - 10 systems reviewed and are negative except for arthritis 
pain with weather changes
 
Past Medical History:
-Type 2 Diabetes Mellitus, diet controlled  
-Hypertension  
-Hyperlipidemia  
-Coronary Artery Disease  
-CHF EF 40-45% in ___  
-Atrial arrhythmias/PAF, not on anticoagulation  
-CKD (Baseline creatinine 1.5)  
-Chronic Obstructive Pulmonary Disease  
-H/O Pulmonary Nodule: Stable right middle lobe and diffuse 
nodules followed on serial CT scans  
-DVT  
-Lymphedema  
-Senorineural Hearing Loss since age ___ (adept at sign language  
-and can read lips when you speak very slowly)  
-Chronic venous stasis with recurrent cellulitis  
-Osteoarthritis  
-Cataracts ___  
-BPH s/p TURP  
 
Social History:
___
Family History:
Father and Mother died of MI (unknown age). 
 
Physical Exam:
Vitals:afeb  77  120/61  24 94% 4LNC
Cons: NAD, lying in bed 
Eyes: PERRL, EOMI, no sclera icterus
ENT: MMM, +roseacea changes
Neck: nl ROM, no goiter
Lymph: no cervical LAD
Cardiovasc: rrr, distant heart sounds, mild ___ edema, left worse 
than right, chronic per pt
Resp: decreased BS at bases, no crackles, +upper airway 
congestion, no resp distress, but prolonged exp phase and mildly 
tachynpic
GI: +bs, soft,nt, mildly distended
MSK: mild kyphosis noted
Skin: no rashes but severe B venostasis changes ___
Neuro: no facial droop
Psych: normal range of affect, very pleasant

 
Pertinent Results:
___ 06:15AM   GLUCOSE-203* UREA N-52* CREAT-1.8* SODIUM-142 
POTASSIUM-4.6 CHLORIDE-103 TOTAL CO2-27 ANION GAP-17
___ 06:27AM   LACTATE-1.8
___ 06:15AM   ___ PTT-29.0 ___
___ 06:15AM   PLT COUNT-162
___ 06:15AM   NEUTS-91.5* LYMPHS-4.1* MONOS-4.0 EOS-0.1 
BASOS-0.4
___ 06:15AM   WBC-13.2*# RBC-3.98* HGB-13.2* HCT-41.2 
MCV-104* MCH-33.1* MCHC-32.0 RDW-14.7
___ 06:15AM   CK-MB-3 ___
___ 06:15AM   cTropnT-0.10*
___ 06:15AM   estGFR-Using this
 
Brief Hospital Course:
CXR: I personally viewed pt’s CXR and I find: CM, +pulm edema, 
RLL infiltrate

___ male with copd, CHF here with cough, SOB and found to have 
pneumonia.
Pt did well throughout his hospitalization and quickly improved. 
He is returning to home with his wife and will have ___ visiting 
home RN set up as well.

Pneumonia-
--treat with oxygen, levofloxacin
--pt did quite well clinically with improvement in his shortness 
of breath, decrease in cough, improvement in appetite. 
--he was initially on 2 L oxygen and this was weaned off 
--he continued to have some cough which is expected givne his 
pneumonia.

COPD-
--treat for acute exascerbation in setting of pneumonia
--spiriva, albuterol nebs
--prednisone 40 qd-will give a burst of 5 days total

acute on chronic systolic heart failure exascerbation
--exacerbation noted due to pulm edema on CXR
--BNP elevated from baseline as well
--pt feeling well on home meds, no crackles on exam, satting 
well, ___ edema at baseline

CKD-
Cr at baseline around ___
monitor, avoid toxins

CAD, pacer, HL-- chronic issues, continued home meds
afib- rate controlled at this time, pt not on anticoag
coagulopathy with chronically elevated INR, no intervention at 
this time
DM, diet controlled-- pt has somewhat elevated BS, but will not 
require home insulin
BPH- continue home meds
OA, chronic venostasis changes-at baseline

I spoke with pt and son about code status, full code at this 
time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB 
3. Isosorbide Dinitrate ER 40 mg PO DAILY 
Do not crush  
4. Metoprolol Tartrate 12.5 mg PO BID 
5. Simvastatin 20 mg PO HS 
6. Spironolactone 25 mg PO DAILY 
7. Tiotropium Bromide 1 CAP IH DAILY 
8. tamsuLOSIN *NF* 0.4 mg Oral daily 
9. Torsemide 20 mg PO BID 
10. Aspirin 325 mg PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 
12. Fish Oil (Omega 3) 1000 mg PO DAILY 
13. Docusate Sodium 100 mg PO BID 
14. Senna 1 TAB PO BID 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Finasteride 5 mg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Isosorbide Dinitrate ER 40 mg PO DAILY 
6. Metoprolol Tartrate 12.5 mg PO BID 
7. Senna 1 TAB PO BID 
8. Simvastatin 20 mg PO HS 
9. Spironolactone 25 mg PO DAILY 
10. tamsuLOSIN *NF* 0.4 mg Oral daily 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Torsemide 20 mg PO BID 
13. Vitamin D ___ UNIT PO DAILY 
14. Dextromethorphan-Guaifenesin (Sugar Free) 5 mL PO Q6H:PRN 
cough 
15. Levofloxacin 500 mg PO Q24H 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0
16. PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*2 Tablet 
Refills:*0
17. Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB 
18. Allopurinol ___ mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
pneumonia with also mild copd exascerbation
also has heart failure, copd, afib
 
Discharge Condition:
improved
 
Discharge Instructions:
return to your regular home routine, but take it easy for a few 
days with lots of rest. 
Be sure to get plenty of rest as you recover from the pneumonia

Continue the antibiotic (levaquin) once a day until gone (3 more 
days)
Continue the prednisone for tomorrow morning and then it is 
finished 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___